US05668291
[4-(2-{2-[4-(Diethoxy-phosphorylmethyl)-phenylcarbamoyl]-phenyldisulfanyl}-benzoylamino)-benzyl]phosphonic acid diethyl ester
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and diethyl 4-aminobenzylphosphonate (2.90 g, 11.6 mmol) in 23 mL of pyridine. The reaction mixture was stirred for 3 days at 23° C. under nitrogen atmosphere. The crude product was recrystallized from acetonitrile-DMF to yield 2.60 g of the title compound, mp 237°-238° C. (dec.).

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | diethyl 4-aminobenzylphosphonate | 11.6 mmol, 2.90 g | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 23 mL | N1=CC=CC=C1 | C5H5N
product | [4-(2-{2-[4-(Diethoxy-phosphorylmethyl)-phenylcarbamoyl]-phenyldisulfanyl}-benzoylamino)-benzyl]phosphonic acid diethyl ester | 2.60 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(NC1=CC=C(C=C1)CP(=O)(OCC)OCC)=O)=O | C36H42N2O8P2S2
